US07410976B2
145.6 g of dimethyl acetylenedicarboxylate was dropwise added to a solution of 123.15 g of 2-methoxyaniline in MeOH (600 mL) at 0° C. over 30 minutes. The mixture was stirred at room temperature overnight, and the resulting solution was added to 700 mL of Ph2O heated at 235° C. (inner temperature) over 30 minutes. This was then heated for an additional 30 minutes. After cooled to room temperature, the reaction mixture was diluted with 700 mL of toluene and 700 mL of n-hexane, and stirred at 0° C. for 3 hours. The resulting precipitate was taken out through filtration, washed with MeOH, and 134 g of 4-hydroxy-8-methoxyquinoline-2-carboxylic acid methyl ester was obtained as an off-white solid.

reactant | dimethyl acetylenedicarboxylate | 145.6 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 2-methoxyaniline | 123.15 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | Ph2O | 700 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
solvent | MeOH | 600 mL | CO | CH4O
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 700 mL | CCCCCC | C6H14
product | 4-hydroxy-8-methoxyquinoline-2-carboxylic acid methyl ester | 134 g | COC(=O)C1=NC2=C(C=CC=C2C(=C1)O)OC | C12H11NO4
